US08633186B2
N-(1-hydroxy-2-methylpropan-2-yl)butyramide
Prepared according to the literature (Boyd, R. N.; Hansen, R. H. J. Am. Chem. Soc. 1953, 75, 5896) from 2-amino-2-methylpropan-1-ol and butyryl chloride in 32% yield. MS 160 (MH+).

reactant | 2-amino-2-methylpropan-1-ol | NC(CO)(C)C | C4H11NO
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
product | N-(1-hydroxy-2-methylpropan-2-yl)butyramide | 32% yield | OCC(C)(C)NC(CCC)=O | C8H17NO2
